US08283354B2
2-Amino-benzamide (6.9 g, 50.8 mmol) was dissolved in 50 mL of pyridine and cooled to 0° C. 2-Chloro-6-methoxy-benzoyl chloride was added dropwise to the solution. After complete addition, the reaction was left to stir at room temperature for three days, which resulted in formation of a brown, cloudy solution. The reaction mixture was then poured into 150 mL of ice water. The precipitate was filtered and washed twice with water, twice with THF and finally twice with CH2Cl2 to obtain N-(2-carbamoylphenyl)-2-chloro-6-methoxybenzamide (13.3 g, 43.7 mmol, 86%).

reactant | 2-Amino-benzamide | 50.8 mmol, 6.9 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 2-Chloro-6-methoxy-benzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)OC | C8H6Cl2O2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-carbamoylphenyl)-2-chloro-6-methoxybenzamide | 43.7 mmol, 13.3 g, 86% | C(N)(=O)C1=C(C=CC=C1)NC(C1=C(C=CC=C1OC)Cl)=O | C15H13ClN2O3
